Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][N:4]([C:5](=[O:6])[c:7]2[cH:8][cH:9][cH:10][c:11]([Br:12])[cH:13]2)[CH:14]([CH2:15][O:16][c:17]2[cH:18][cH:19][cH:20][n:21][cH:22]2)[CH2:23]1>>[NH:1]1[CH2:2][CH2:3][N:4]([C:5](=[O:6])[c:7]2[cH:8][cH:9][cH:10][c:11]([Br:12])[cH:13]2)[CH:14]([CH2:15][O:16][c:17]2[cH:18][cH:19][cH:20][n:21][cH:22]2)[CH2:23]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][N:4]([C:5](=[O:6])[c:7]2[cH:8][cH:9][cH:10][c:11]([Br:12])[cH:13]2)[CH:14]([CH2:15][O:16][c:17]2[cH:18][cH:19][cH:20][n:21][cH:22]2)[CH2:23]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][N:4]([C:5](=[O:6])[c:7]2[cH:8][cH:9][cH:10][c:11]([Br:12])[cH:13]2)[CH:14]([CH2:15][O:16][c:17]2[cH:18][cH:19][cH:20][n:21][cH:22]2)[CH2:23]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[CH2:3][CH2:4][n:5]1[c:6]2[c:7]([c:8]3[cH:9][c:10]([CH3:11])[cH:12][cH:13][c:14]13)[CH2:15][N:16]([CH3:17])[CH2:18][CH2:19]2.[NH3:20]>>[C:1](=[O:2])([CH2:3][CH2:4][n:5]1[c:6]2[c:7]([c:8]3[cH:9][c:10]([CH3:11])[cH:12][cH:13][c:14]13)[CH2:15][N:16]([CH3:17])[CH2:18][CH2:19]2)[NH2:20],CC[O:101][C:1](=[O:2])[CH2:3][CH2:4][n:5]1[c:6]2[c:7]([c:8]3[cH:9][c:10]([CH3:11])[cH:12][cH:13][c:14]13)[CH2:15][N:16]([CH3:17])[CH2:18][CH2:19]2.[NH3:20]>>[C:1](=[O:2])([CH2:3][CH2:4][n:5]1[c:6]2[c:7]([c:8]3[cH:9][c:10]([CH3:11])[cH:12][cH:13][c:14]13)[CH2:15][N:16]([CH3:17])[CH2:18][CH2:19]2)[NH2:20],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(20, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])=[O:10].[OH:11][CH2:12][CH2:13][C@H:14]1[CH2:15][CH2:16][O:17][CH2:18][C@H:19]1[F:20]>>[S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])(=[O:10])[O:11][CH2:12][CH2:13][C@H:14]1[CH2:15][CH2:16][O:17][CH2:18][C@H:19]1[F:20],[Cl:101][S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])=[O:10].[OH:11][CH2:12][CH2:13][C@H:14]1[CH2:15][CH2:16][O:17][CH2:18][C@H:19]1[F:20].[H-:301].[Na+]>>[S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])(=[O:10])[O:11][CH2:12][CH2:13][C@H:14]1[CH2:15][CH2:16][O:17][CH2:18][C@H:19]1[F:20],alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 11.1), ([11.1, 11], 11), (11, 1), ([1, 9], 9), (9, [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][CH:2]([CH3:3])[CH3:4].[CH3:5][CH2:6][O:7][c:8]1[cH:9][cH:10][cH:11][c:12](-[c:13]2[cH:14][c:15](=[O:16])[nH:17][c:18]3[cH:19][cH:20][c:21]([C:22]([OH:23])([c:24]4[cH:25][cH:26][c:27]([Cl:28])[n:29][cH:30]4)[c:31]4[cH:32][n:33][cH:34][n:35]4[CH3:36])[cH:37][c:38]23)[cH:39]1>>[CH2:1]([CH:2]([CH3:3])[CH3:4])[n:17]1[c:15](=[O:16])[cH:14][c:13](-[c:12]2[cH:11][cH:10][cH:9][c:8]([O:7][CH2:6][CH3:5])[cH:39]2)[c:38]2[c:18]1[cH:19][cH:20][c:21]([C:22]([OH:23])([c:24]1[cH:25][cH:26][c:27]([Cl:28])[n:29][cH:30]1)[c:31]1[cH:32][n:33][cH:34][n:35]1[CH3:36])[cH:37]2,[CH3:5][CH2:6][O:7][c:8]1[cH:9][cH:10][cH:11][c:12](-[c:13]2[cH:14][c:15](=[O:16])[nH:17][c:18]3[cH:19][cH:20][c:21]([C:22]([OH:23])([c:24]4[cH:25][cH:26][c:27]([Cl:28])[n:29][cH:30]4)[c:31]4[cH:32][n:33][cH:34][n:35]4[CH3:36])[cH:37][c:38]23)[cH:39]1.[Br:101][CH2:1][CH:2]([CH3:3])[CH3:4]>>[CH2:1]([CH:2]([CH3:3])[CH3:4])[n:17]1[c:15](=[O:16])[cH:14][c:13](-[c:12]2[cH:11][cH:10][cH:9][c:8]([O:7][CH2:6][CH3:5])[cH:39]2)[c:38]2[c:18]1[cH:19][cH:20][c:21]([C:22]([OH:23])([c:24]1[cH:25][cH:26][c:27]([Cl:28])[n:29][cH:30]1)[c:31]1[cH:32][n:33][cH:34][n:35]1[CH3:36])[cH:37]2,SN2,"[(17, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
